US04415572
8-Acetylaminocarbostyril (15.0 g, 74.2 mols) was suspended in 300 ml of dioxane. After adding 2.0 g of 10% palladium-carbon, the suspension was subjected to catalytic reduction at 70° to 80° C. under atmospheric pressure. After completion of reaction, the catalyst was removed by filtration and the solvent was distilled off under reduced pressure to give 14.3 g of 8-acetylamino-3,4-dihydrocarbostyril.

reactant | 8-Acetylaminocarbostyril | 74.2 mols, 15.0 g | C(C)(=O)NC=1C=CC=C2C=CC(NC12)=O | C11H10N2O2
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | 2.0 g | [C].[Pd]
product | 8-acetylamino-3,4-dihydrocarbostyril | 14.3 g | C(C)(=O)NC=1C=CC=C2CCC(NC12)=O | C11H12N2O2
